US07666878B2
95b) [1-(4-Methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester
To an ice-cooled solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (12.8 g, 62.8 mmol) in dry DMF (400 ml) under an inert atmosphere of Argon is added dropwise, BEMP (18.1 ml, 62.8 mmol) over two minutes. After stirring at 10° C. for 40 minutes, the resulting solution is treated dropwise with 1-bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene (23.8 g, 75.4 mmol) and allowed to warm to room temperature while stirring overnight. The reaction is concentrated in vacuo with toluene azeotroping and the resulting oil is partitioned between water (400 ml) and DCM (500 ml) and extracted with DCM (500 ml). The organic portions are combined and washed with water (2×200 ml). The resulting suspension is filtered and concentrated in vacuo with toluene azeotroping. The crude is purified by chromatography on silica eluting with iso-hexane/acetone (16:4) to yield the titled product. (MH+ 441)

reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 62.8 mmol, 12.8 g | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | BEMP | 62.8 mmol, 18.1 ml | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 1-bromomethyl-4-methanesulfonyl-2-trifluoromethyl-benzene | 75.4 mmol, 23.8 g | BrCC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F | C9H8BrF3O2S
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | [1-(4-Methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)CC2=C(C=C(C=C2)S(=O)(=O)C)C(F)(F)F)C)=O | C20H19F3N2O4S
